US04250284
Aluminum isopropylate is prepared by reacting in a dry 2 liter flask swept with nitrogen, 231 ml. of isopropyl alcohol and 14 g. of aluminum in presence of a small amount of HgCl2. The reaction starts immediately and is maintained by heating under reflux. After 1 hour the isopropyl alcohol in excess is eliminated. After that, the aluminum isopropylate is distilled under 6 mm. of Hg at about 150° C. The distillate crystallizes very slowly. It contains 133 g. of aluminum per kg.

reactant | aluminum | [Al] | Al
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
catalyst | HgCl2 | Cl[Hg]Cl
product | Aluminum isopropylate | CC(C)[O-].CC(C)[O-].CC(C)[O-].[Al+3] | InChI=1S/3C3H7O.Al/c3*1-3(2)4;/h3*3H,1-2H3;/q3*-1;+3
